US07442715B2
To a solution of 4-{[2-(acetylamino)-4-(2-{4-[(tert-butoxycarbonyl)amino]phenyl}ethyl)-1,3-thiazol-5-yl]methyl}benzoic acid (50 mg) in 0.5 ml of dichloromethane were added methylamine hydrochloride (10.7 mg), 1-hydroxybenzotriazole (20.4 mg) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide (55.3 μl), then, the mixture was stirred for 3. hrs. at 25° C. The reaction mixture was diluted with 10 ml of chloroform and washed with water and brine. The organic layer was dried over magnesium sulfate and evaporated under vaccum. The residue was triturated with ethyl acetate and diisopropylether, and collected by filtration to give tert-butyl {4-[2-(2-(acetylamino)-5-{4-[(dimethylamino)carbonyl]benzyl}-1,3-thiazol-4-yl)ethyl]phenyl}carbamate as a pale yellow solid.

reactant | 4-{[2-(acetylamino)-4-(2-{4-[(tert-butoxycarbonyl)amino]phenyl}ethyl)-1,3-thiazol-5-yl]methyl}benzoic acid | 50 mg | C(C)(=O)NC=1SC(=C(N1)CCC1=CC=C(C=C1)NC(=O)OC(C)(C)C)CC1=CC=C(C(=O)O)C=C1 | C26H29N3O5S
reactant | methylamine hydrochloride | 10.7 mg | Cl.CN
reactant | 1-hydroxybenzotriazole | 20.4 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide | 55.3 μl | C(C)N=C=NCCCN(C)C | C8H17N3
solvent | dichloromethane | 0.5 ml | ClCCl | CH2Cl2
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | tert-butyl {4-[2-(2-(acetylamino)-5-{4-[(dimethylamino)carbonyl]benzyl}-1,3-thiazol-4-yl)ethyl]phenyl}carbamate | C(C)(=O)NC=1SC(=C(N1)CCC1=CC=C(C=C1)NC(OC(C)(C)C)=O)CC1=CC=C(C=C1)C(=O)N(C)C | C28H34N4O4S
